US07381719B2
{6-[4-(Phenethylamino-methyl)-phenoxy]-pyridin-3-yl}-piperidin-1-yl-methanone
Combine 4-[5-(Piperidine-1-carbonyl)-pyridin-2-yloxy]-benzaldehyde (72.0 mg, 0.23 mmol), MeOH (2.3 mL), Trimethylorthoformate (1.6 mL), and Phenethylamine (26 uL, 0.21 mmol). After the reaction stirs for 72 hours at room temperature under a Nitrogen atmosphere, add NaBH4 (10.5 mg, 0.28 mmol). After 5 hours, concentrate the reaction under reduced pressure and add the mixture to a 2 g SCX column. Wash with MeOH and then 1N NH3MeOH to afford 72.2 mg (75% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 1.5-1.8 (6H, m), 2.8-3.0 (4H, m), 3.3-3.8 (4H, m), 3.85 (2H, s), 6.8 (1H, d), 7.1-7.4 (9H, m), 8.0 (1H, d), 8.2 (1H, s); MS m/z 416 (M+1).

reactant | 4-[5-(Piperidine-1-carbonyl)-pyridin-2-yloxy]-benzaldehyde | 0.23 mmol, 72.0 mg | N1(CCCCC1)C(=O)C=1C=CC(=NC1)OC1=CC=C(C=O)C=C1 | C18H18N2O3
reactant | Trimethylorthoformate | 1.6 mL | COC(OC)OC | C4H10O3
reactant | Phenethylamine | 0.21 mmol, 26 uL | C(CC1=CC=CC=C1)N | C8H11N
reactant | NaBH4 | 0.28 mmol, 10.5 mg | [BH4-].[Na+]
solvent | MeOH | 2.3 mL | CO | CH4O
product | {6-[4-(Phenethylamino-methyl)-phenoxy]-pyridin-3-yl}-piperidin-1-yl-methanone | 72.2 mg, 75% yield | C(CC1=CC=CC=C1)NCC1=CC=C(OC2=CC=C(C=N2)C(=O)N2CCCCC2)C=C1 | C26H29N3O2
